US07595327B2
According to the procedure of Example 10, Step 2, the reaction of 220.3 mg (0.5 mmol) of cis-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid with hydroxylamine provided 156.1 mg of cis-N-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide in 69% yield. MS: 456.1 (M+H)+

reactant | cis-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid | 0.5 mmol, 220.3 mg | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCC1)C(=O)O | C23H24N2O5S
reactant | hydroxylamine | NO | H3NO
product | cis-N-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide | 156.1 mg, 69% yield | ONC(=O)[C@H]1[C@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C23H25N3O5S
